US09227978B2
N-(4-Chloro-2-methoxy-5-(prop-1-en-2-yl)phenyl)acetamide
To a solution of N-(4-chloro-5-(2-hydroxypropan-2-yl)-2-methoxyphenyl)acetamide (3.2 g, 12.4 mmol) in DCM (20 mL) at −5° C., SOCl2 (3.7 g, 37.25 mmol) was added dropwise. The mixture was warmed to RT, and then stirred at reflux for 2 h. The reaction mixture was concentrated and the residue was purified by flash column chromatography on silica gel (ethyl acetate/petroleum ether=3:1) to afford the desired product (1.9 g, 64% yield).

reactant | N-(4-chloro-5-(2-hydroxypropan-2-yl)-2-methoxyphenyl)acetamide | 12.4 mmol, 3.2 g | ClC1=CC(=C(C=C1C(C)(C)O)NC(C)=O)OC | C12H16ClNO3
reactant | SOCl2 | 37.25 mmol, 3.7 g | O=S(Cl)Cl | Cl2OS
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Chloro-2-methoxy-5-(prop-1-en-2-yl)phenyl)acetamide | 1.9 g, 64% yield | ClC1=CC(=C(C=C1C(=C)C)NC(C)=O)OC | C12H14ClNO2
